US05990142
18G 2',3'-Dihydroxyacetophenone
A solution of 2',3'-dimethoxyacetophenone (4.85 g, 26.9 mmol) in dichloromethane (100 ml) was added at -70° C. with a 1M boron tribromide solution in dichloromethane (68 ml). The mixture was left to cool, keeping stirring for 2.5 hours at room temperature, then added with methanol (70 ml), left under stirring for 1 h, thereafter evaporated to dryness. The residue was dissolved in ethyl acetate (250 ml), washed with 2% NaHCO3 (1×30 ml), dried and the solvent was evaporated off, to obtain a crude which was purified by crystallization in methanol, thereby obtaining 3.10 g of the title compound as a yellow solid (76% yield).

reactant | 2',3'-dimethoxyacetophenone | 26.9 mmol, 4.85 g | COC1=C(C=CC=C1OC)C(C)=O | C10H12O3
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | methanol | 70 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 68 ml | ClCCl | CH2Cl2
product | 2',3'-Dihydroxyacetophenone | 3.10 g, 76% yield | OC1=C(C=CC=C1O)C(C)=O | C8H8O3
